pot-adc-44-a0.5
Vvrail rail 0 DC 4.400000000000e+0
Rrt rail wiper 5.0000000000000000e+3
Rrb wiper 0 5.0000000000000000e+3
.options reltol=1e-6 abstol=1e-12 vntol=1e-7 gmin=1e-12 method=gear temp=25 tnom=25
.tran 9.9999999999999995e-7 1.0000000000000001e-5 0 9.9999999999999995e-7
.end
